US06077959
To a 250 mL roundbottom flask equipped with a mechanical stirrer and a thermometer was added 100 mL of 20% fuming sulfuric acid (oleum) (% wt/vol. triazole to solvent--28.7%), followed by 28.7 grams (0.104 mole--1.0 equiv.) of 1-(4-chloro-2-fluorophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole. The mixture was vigorously stirred at ambient temperature to effect dissolution. The mixture was cooled in an ice-bath, and 26.3 grams (0.104 mole--1.0 equiv.) of iodine crystals were added. The reaction mixture was then warmed to ambient temperature, where it stirred for seven hours. After this time gas chromatographic (GC) and TLC analysis of the reaction mixture indicated that the reaction was almost complete. The reaction mixture was stirred at ambient temperature for an additional 16 hours. At the conclusion of this period a second GC analysis of the reaction mixture indicated 100% conversion of the triazole starting material. The reaction mixture was poured into 300 grams of ice, and the resulting mixture was extracted with two 250 mL portions of methylene chloride. The organic extracts were combined and washed with an aqueous 10% potassium carbonate solution, an aqueous 5% sodium bisulfite solution, and an aqueous saturated sodium chloride solution. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure yielding a white solid, which was dried to a constant weight, yielding 38.8 grams of 92% pure 1-(4-chloro-2-fluoro-5-iodophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole (92.5% yield). GC analysis of the product indicated the presence of about 4% of an impurity. The 92% pure product was recrystallized from 300 mL of methanol, yielding 29.8 grams of 1-(4-chloro-2-fluoro-5-iodophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole, m.p. 125-127° C. The mother liquor was concentrated under vacuum to yield a residue, which was recrystallized from 60 mL of methanol, yielding an additional 5.9 grams of 1-(4-chloro-2-fluoro-5-iodophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole.

reactant | 1-(4-chloro-2-fluorophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole | 28.7 grams | ClC1=CC(=C(C=C1)N1N=C(N(C1=O)C(F)F)C)F | C10H7ClF3N3O
reactant | iodine crystals | 26.3 grams | II | I2
reactant | triazole | N1N=NC=C1 | C2H3N3
solvent | sulfuric acid | 100 mL | S(O)(O)(=O)=O | H2O4S
product | 1-(4-chloro-2-fluoro-5-iodophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole | 38.8 grams, 92.5% yield | ClC1=CC(=C(C=C1I)N1N=C(N(C1=O)C(F)F)C)F | C10H6ClF3IN3O
